US04001328
The 1,2-epoxy-4,4-diarylbutane starting materials can alternatively be prepared by reaction of dimethylsulfonium methylide or dimethyloxosulfonium methylide with an appropriate diarylalkyl aldehyde or a diarylalkyl ketone. For example, reaction of an aldehyde such as 3,3-diphenylpropanal with either dimethylsulfonium methylide or dimethyloxosulfonium methylide in approximately equimolar amounts provides 1,2-epoxy-4,4-diphenylbutane. Similarly, reaction of a diarylalkyl ketone such as methyl-(2,2-diphenylethyl) ketone with either dimethylsulfonium methylide or dimethyloxosulfonium methylide provides 1,2-epoxy-4,4-diphenyl-2-methylbutane. Such reactions typically are carried out in a solvent such as dimethyl sulfoxide or tetrahydrofuran, and normally at a reduced temperature of about 0° C. Dimethylsulfonium methylide is prepared by reaction of trimethylsulfonium iodide with methylsulfinylcarbanion, while dimethyloxosulfonium methylide is prepared by reaction of trimethyloxosulfonium iodide with sodium hydride. Such reactions are more fully discussed by Corey et al., J. Am. Chem. Soc., 84, 867(1962) and J. Am. Chem. Soc., 84, 3782 (1962).

reactant | methyl-(2,2-diphenylethyl) ketone | CC(=O)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C16H16O
reactant | dimethyloxosulfonium methylide | CS(=C)(=O)C | C3H8OS
product | 1,2-epoxy-4,4-diphenyl-2-methylbutane | O1CC1(CC(C1=CC=CC=C1)C1=CC=CC=C1)C | C17H18O
